US05185333
A solution of 10 g of 6-chloro-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylic acid and 6.5 ml of triethylamine in 100 ml of chloroform was cooled, and 4.4 g of acetyl chloride was added thereto with stirring. The resulting mixture was stirred at room temperature for 2 hours. To the liquid reaction mixture were added an aqueous solution of sodium hydrogen carbonate and chloroform, and the resulting organic layer was separated, washed with water, and then dried with magnesium sulfate. The solvent was distilled off under reduced pressure, thereby obtaining 7.8 g of 4-acetyl-6-chloro-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylic acid. Melting point: 76°-77° C.

reactant | 6-chloro-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylic acid | 10 g | ClC=1C=C(C2=C(NCCO2)C1)C(=O)O | C9H8ClNO3
reactant | triethylamine | 6.5 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 4.4 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-acetyl-6-chloro-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylic acid | 7.8 g | C(C)(=O)N1CCOC2=C1C=C(C=C2C(=O)O)Cl | C11H10ClNO4
